US06521666B1
A solution of (3,5-dimethoxy)phenylacetic acid (3 g) in Et2O (100 mL) was cooled to 0° C. and LiAlH4 (1M in Et2O, 16.8 mL) was added. The mixture was warmed to room temperature and stirred for 5 h, whereupon the pH was adjusted to 5 using HCl (1 M). The mixture was washed with H2O/EtOAc and the organic layer was separated. The aqueous layer was extracted with EtOAc. The combined organic layers were dried (MgSO4) and concentrated in vacuo to give 3,5-dimethoxy-4-(2-hydroxyethyl)benzene (2.8 g) as a crude product.

reactant | (3,5-dimethoxy)phenylacetic acid | 3 g | COC=1C=C(C=C(C1)OC)CC(=O)O | C10H12O4
reactant | LiAlH4 | 1M, 16.8 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | 1 M | Cl | ClH
reactant | Et2O | 100 mL | CCOCC | C4H10O
product | 3,5-dimethoxy-4-(2-hydroxyethyl)benzene | 2.8 g | COC=1C=CC=C(C1CCO)OC | C10H14O3
